US05532349
Synthesis of 5-trifluoromethyl-2,4-bis(trimethylsilyloxy)pyrimidine
In 50 ml of hexamethyldisilazane, 6.16 g of 5-trifluoromethyluracil was suspended and then 0.22 ml of trimethylchlorosilane was added to the suspension, followed by heating the resulting mixture to reflux for 5 hours. After the reaction, the excess hexamethyldisilazane was removed by evaporation and the resultant was distilled in vacuum. All of the fractions of distillate obtained at about 60° C. under 1 mmHg were collected. Yield: 10.3 g

reactant | 5-trifluoromethyluracil | 6.16 g | FC(C=1C(NC(NC1)=O)=O)(F)F | C5H3F3N2O2
reactant | trimethylchlorosilane | 0.22 ml | C[Si](Cl)(C)C | C3H9ClSi
solvent | hexamethyldisilazane | 50 ml | C[Si](N[Si](C)(C)C)(C)C | C6H19NSi2
product | 5-trifluoromethyl-2,4-bis(trimethylsilyloxy)pyrimidine | FC(C=1C(=NC(=NC1)O[Si](C)(C)C)O[Si](C)(C)C)(F)F | C11H19F3N2O2Si2
